US08026234B2
Compound 42: N-(azepan-4-yl)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-N—Boc-hexahydro azepine 4-amine. The final compound was purified by reverse phase HPLC and basified to give the free base. Further, after washing with water (10 ml), t-butoxycarbonyl (Boc) protection group was removed using 40% TFA in dichloromethane (6 ml) and purified the product using preparative HPLC. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.10-2.05 (m, 16H) 2.88 (d, J=3.28 Hz, 1H) 3.01 (br. s., 2H) 3.31 (s, 3H) 3.34 (br. s., 1H) 3.94 (s, 3H) 4.06 (t, J=13.26 Hz, 3H) 4.46 (m, 1H) 7.47 (d, J=8.1 Hz, 1H) 7.50 (s, 1H) 7.91 (s, 1H) 8.21 (s, 1H) 8.23-8.30 (m, 2H). [M+H] calculated for C28H37F2N7O3, 558. found 558.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-N—Boc-hexahydro azepine 4-amine | C(=O)(OC(C)(C)C)N1CCC(CCC1)N | C11H22N2O2
product | N-(azepan-4-yl)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzamide | N1CCC(CCC1)NC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCCC2)N1)OC)=O | C28H37F2N7O3
